US08426411B2
To a solution of methyl 4-(benzyl(tert-butoxycarbonyl)amino)bicyclo[2.2.2]octane-1-carboxylate (2.70 g, 7.23 mmol) in THF (24 mL) at about 0° C. was added lithium borohydride (0.350 g, 14.46 mmol). The reaction mixture was warmed to ambient temperature and stirred for about 16 h. The reaction was cooled to about 0° C. and water (15 mL) was carefully added. The reaction mixture was warmed to ambient temperature and was diluted with EtOAc (20 mL). The layers were separated and the organic layer was washed with brine (2×20 mL), dried over anhydrous Na2SO4, filtered and concd under reduced pressure to provide tert-butyl benzyl(4-(hydroxymethyl)bicyclo[2.2.2]octan-1-yl)carbamate (2.31 g, 92%) as an off white sticky foam: LC/MS (Table 1, Method b) Rt=2.67 min; MS m/z: 346 (M+H)+.

reactant | methyl 4-(benzyl(tert-butoxycarbonyl)amino)bicyclo[2.2.2]octane-1-carboxylate | 7.23 mmol, 2.70 g | C(C1=CC=CC=C1)N(C12CCC(CC1)(CC2)C(=O)OC)C(=O)OC(C)(C)C | C22H31NO4
reactant | lithium borohydride | 14.46 mmol, 0.350 g | [BH4-].[Li+]
reactant | water | 15 mL | O | H2O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | tert-butyl benzyl(4-(hydroxymethyl)bicyclo[2.2.2]octan-1-yl)carbamate | 2.31 g, 92% | C(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)C12CCC(CC1)(CC2)CO | C21H31NO3
